### PR TITLE
[Merged by Bors] - feat: port Topology.UniformSpace.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1966 @@
...
+# Uniform spaces
+
+Uniform spaces are a generalization of metric spaces and topological groups. Many concepts directly
+generalize to uniform spaces, e.g.
+
+* uniform continuity (in this file)
+* completeness (in `cauchy.lean`)
+* extension of uniform continuous functions to complete spaces (in `uniform_embedding.lean`)
+* totally bounded sets (in `cauchy.lean`)
+* totally bounded complete sets are compact (in `cauchy.lean`)
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:25]:
```suggestion
* completeness (in `Cauchy.lean`)
* extension of uniform continuous functions to complete spaces (in `UniformEmbedding.lean`)
* totally bounded sets (in `Cauchy.lean`)
* totally bounded complete sets are compact (in `Cauchy.lean`)
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1966 @@
...
+
+In this file we also define a complete lattice structure on the type `UniformSpace X`
+of uniform structures on `X`, as well as the pullback (`UniformSpace.comap`) of uniform structures
+coming from the pullback of filters.
+Like distance functions, uniform structures cannot be pushed forward in general.
+
+## Notations
+
+Localized in `uniformity`, we have the notation `𝓤 X` for the uniformity on a uniform space `X`,
+and `○` for composition of relations, seen as terms with type `Set (X × X)`.
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:93]:
```suggestion
Localized in `Uniformity`, we have the notation `𝓤 X` for the uniformity on a uniform space `X`,
and `○` for composition of relations, seen as terms with type `Set (X × X)`.
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1966 @@
...
+
+## Implementation notes
+
+There is already a theory of relations in `data/rel.lean` where the main definition is
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:97]:
```suggestion
There is already a theory of relations in `Data/Rel.lean` where the main definition is
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1966 @@
...
+`def Rel (α β : Type*) := α → β → Prop`.
+The relations used in the current file involve only one type, but this is not the reason why
+we don't reuse `data/rel.lean`. We use `Set (α × α)`
+instead of `Rel α α` because we really need sets to use the filter library, and elements
+of filters on `α × α` have type `Set (α × α)`.
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:102]:
```suggestion
we don't reuse `Data/Rel.lean`. We use `Set (α × α)`
instead of `Rel α α` because we really need sets to use the filter library, and elements
of filters on `α × α` have type `Set (α × α)`.
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1966 @@
...
+#align eventually_uniformity_iterate_comp_subset eventually_uniformity_iterate_comp_subset
+
+/-- If `s ∈ 𝓤 α`, then for any natural `n`, for a subset `t` of a sufficiently small set in `𝓤 α`,
+we have `t ○ t ⊆ s`. -/
+theorem eventually_uniformity_comp_subset {s : Set (α × α)} (hs : s ∈ 𝓤 α) :
+    ∀ᶠ t in (𝓤 α).smallSets, t ○ t ⊆ s :=
+  eventually_uniformity_iterate_comp_subset hs 1
+#align eventually_uniformity_comp_subset eventually_uniformity_comp_subset
+
+/-- Relation `λ f g, tendsto (λ x, (f x, g x)) l (𝓤 α)` is transitive. -/
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:457]:
```suggestion
/-- Relation `fun f g ↦ Tendsto (fun x ↦ (f x, g x)) l (𝓤 α)` is transitive. -/
```
and a few more like this below.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1966 @@
...
+    (hx : x ∈ ball z V) (hy : y ∈ ball z W) : (x, y) ∈ V ○ W := by
+  rw [mem_ball_symmetry hV] at hx
+  exact ⟨z, hx, hy⟩
+#align mem_comp_of_mem_ball mem_comp_of_mem_ball
+
+theorem UniformSpace.isOpen_ball (x : α) {V : Set (α × α)} (hV : IsOpen V) : IsOpen (ball x V) :=
+  hV.preimage <| continuous_const.prod_mk continuous_id
+#align uniform_space.is_open_ball UniformSpace.isOpen_ball
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:653]:
```suggestion
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,1966 @@
...
+#align lift_nhds_left lift_nhds_left
+
+theorem lift_nhds_right {x : α} {g : Set α → Filter β} (hg : Monotone g) :
+    (𝓝 x).lift g = (𝓤 α).lift fun s : Set (α × α) => g { y | (y, x) ∈ s } := by
+  rw [nhds_eq_comap_uniformity', comap_lift_eq2 hg]
+  rfl
+#align lift_nhds_right lift_nhds_right
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+theorem nhds_nhds_eq_uniformity_uniformity_prod {a b : α} :
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:860]:
```suggestion
theorem nhds_nhds_eq_uniformity_uniformity_prod {a b : α} :
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,1966 @@
...
+    𝓝 a ×ᶠ 𝓝 b = (𝓤 α).lift fun s : Set (α × α) =>
+      (𝓤 α).lift' fun t => { y : α | (y, a) ∈ s } ×ˢ { y : α | (b, y) ∈ t } := by
+  rw [nhds_eq_uniformity', nhds_eq_uniformity, prod_lift'_lift']
+  exacts[rfl, monotone_preimage, monotone_preimage]
+#align nhds_nhds_eq_uniformity_uniformity_prod nhds_nhds_eq_uniformity_uniformity_prod
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+theorem nhds_eq_uniformity_prod {a b : α} :
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:868]:
```suggestion
theorem nhds_eq_uniformity_prod {a b : α} :
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,1966 @@
...
+#align uniform_continuous.prod_map UniformContinuous.prod_map
+
+theorem toTopologicalSpace_prod {α} {β} [u : UniformSpace α] [v : UniformSpace β] :
+    @UniformSpace.toTopologicalSpace (α × β) instUniformSpaceProd =
+      @instTopologicalSpaceProd α β u.toTopologicalSpace v.toTopologicalSpace :=
+  rfl
+#align to_topological_space_prod toTopologicalSpace_prod
+
+/-- A version of `UniformContinuous.inf_dom_left` for binary functions -/
+theorem uniformContinuous_inf_dom_left₂ {α β γ} {f : α → β → γ} {ua1 ua2 : UniformSpace α}
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:1633]: Should this also be renamed for dot notation? (Same question for the next lemma)

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,1966 @@
...
+end Prod
+
+section
+
+open UniformSpace Function
+
+variable {δ' : Type _} [UniformSpace α] [UniformSpace β] [UniformSpace γ] [UniformSpace δ]
+  [UniformSpace δ']
+
+-- mathport name: «expr ∘₂ »
```
Comment (dupuisf) [inline Mathlib/Topology/UniformSpace/Basic.lean:1683]:
```suggestion

```

**Review by dupuisf — COMMENTED** [review]
Thanks! Just some cosmetic comments.

bors d+

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 9 above)
Comment (jcommelin) [reply Mathlib/Topology/UniformSpace/Basic.lean:1630]: Probably a good idea, but let's do it in a follow-up PR.
